US07622480B2
F. Preparation of 1-furan-3-ylmethyl-3-piperidinyl-1H-pyrrolo[2,3-b]pyridine
Over a solution of 1.4 g (3.7 mmol) of 4-(1-furan-3-ylmethyl-1H-pyrrolo[2,3-b]pyridin-3-yl) piperidine-1-carboxylic acid tert-butyl ester in 10 ml of dichloromethane, 2.85 ml of trifluoroacetic acid were carefully added. The crude mixture was stirred at room temperature for 1 hour. The solvent was removed under reduced pressure and the crude residue was dissolved in 10 ml of ethyl acetate and washed with saturated aqueous solution of sodium carbonate and brine. After drying over sodium sulphate, filtering and removing the solvent under reduced pressure, 0.62 g (60% of yield) of the expected product were obtained.

reactant | 4-(1-furan-3-ylmethyl-1H-pyrrolo[2,3-b]pyridin-3-yl) piperidine-1-carboxylic acid tert-butyl ester | 3.7 mmol, 1.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CN(C2=NC=CC=C21)CC2=COC=C2 | C22H27N3O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 2.85 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-furan-3-ylmethyl-3-piperidinyl-1H-pyrrolo[2,3-b]pyridine | O1C=C(C=C1)CN1C=C(C=2C1=NC=CC2)N2CCCCC2 | C17H19N3O
